US07838543B2
N-[2-(3-Dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-yl]-3-(4-methoxy-phenyl)-acrylamide
Prepare according to Method C (Example 9), using 4-methoxycinnamic acid (110 mg, 0.617 mmol), oxalyl chloride (300 μL, 3.43 mmol), and 2-(3-dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-ylamine (99 mg, 0.402 mmol) to afford the title compound (118 mg, 72%). mass spectrum (m/e): 407.4 [M+H], 405.3 [M−H].

reactant | 4-methoxycinnamic acid | 0.617 mmol, 110 mg | COC1=CC=C(C=CC(=O)O)C=C1 | C10H10O3
reactant | oxalyl chloride | 3.43 mmol, 300 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(3-dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-ylamine | 0.402 mmol, 99 mg | CN(C1CN(CC1)C=1OC2=C(N1)C=C(C=C2)N)C | C13H18N4O
product | N-[2-(3-Dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-yl]-3-(4-methoxy-phenyl)-acrylamide | 118 mg, 72% | CN(C1CN(CC1)C=1OC2=C(N1)C=C(C=C2)NC(C=CC2=CC=C(C=C2)OC)=O)C | C23H26N4O3
